US06100275
3-(3,4-Dichlorophenyl)-8-methyl-8-azabicyclo[3.2.1]octan-3-ol
A stirred solution of 1-bromo-3,4-dichlorobenzene (178.6 g, 0.8 mol) in anhydrous diethyl ether (1430 mL) under an argon atmosphere was cooled to -70° C. A solution of n-butyllithium in hexanes (310 mL 2.5 M; 0.78 mol) was added slowly while the temperature was kept below -65° C. (addition time=1 hour). The resulting solution was stirred for another 30 minutes at -70° C. followed by addition of a solution of 8-methyl-8-azabicyclo[3.2.1]octan-3-one (50 g, 0.36 mol) in anhydrous tetrahydrofuran (360 mL). The temperature was kept below -50° C. during the addition which took approximately one hour. The resulting solution was stirred at -50° C. for two hours followed by a addition of water (215 mL) over 15 minutes and 4M HCl (360 mL) over 25 minutes. The temperature reached -20° C. by the end of the addition. The organic phase was discharged and the aqueous phase was washed once with diethyl ether (500 mL). Concentrated NH4OH (approximately 200 mL) was added to the aqueous phase to pH=10 which resulted in precipitation of the title compound. A crude product was isolated by filtration which was suspended twice in water (2×300 mL) and finally dried under a lamp yielding the title compound as a white solid (88 g, 86%), m.p. 179.3-180.5° C.

reactant | 1-bromo-3,4-dichlorobenzene | 0.8 mol, 178.6 g | BrC1=CC(=C(C=C1)Cl)Cl | C6H3BrCl2
reactant | n-butyllithium | C(CCC)[Li]
reactant | 8-methyl-8-azabicyclo[3.2.1]octan-3-one | 0.36 mol, 50 g | CN1C2CC(CC1CC2)=O | C8H13NO
reactant | HCl | 4M, 360 mL | Cl | ClH
solvent | diethyl ether | 1430 mL | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 360 mL | O1CCCC1 | C4H8O
solvent | water | 215 mL | O | H2O
product | 3-(3,4-Dichlorophenyl)-8-methyl-8-azabicyclo[3.2.1]octan-3-ol | ClC=1C=C(C=CC1Cl)C1(CC2CCC(C1)N2C)O | C14H17Cl2NO
